US05872137
A reaction vessel was charged with 38 g of 4-benzyloxyphenyl benzoate and 500 ml of ethanol, and the air in the vessel was replaced with nitrogen. Then, 1.0 g of 10% palladium carbon was added thereto, and the nitrogen in the vessel was replaced with hydrogen, followed by vigorous stirring at room temperature for 24 hours. The hydrogen in the vessel was replaced with nitrogen, after which the reaction mixture was filtered though celite, and the filtrate was concentrated, which afforded 24.5 g of 4-hydroxyphenyl benzoate (94% yield).

reactant | 4-benzyloxyphenyl benzoate | 38 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C20H16O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 1.0 g | [C].[Pd]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-hydroxyphenyl benzoate | 24.5 g, 94% yield | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)O | C13H10O3
